US04777163
2-(1,2,5-Thiadiazol-4-yl)-ethane-1,1-diphosphonic acid
1.18 g. of the tetraethyl 2-(1,2,5-thiadiazol-4-yl)-ethane-1,1-diphosphonate described in Example 3 is mixed with 3.3 ml. trimethylbromosilane under an atmosphere of nitrogen. The reaction mixture is left to stand for 24 hours at ambient temperature and the solution is then evaporated, the residue is mixed with water, the solution is adjusted to a pH of 5 with sodium hydroxide and mixed with methanol. The precipitate obtained is filtered off with suction. There is thus obtained 0.56 g. (53% of theory)of the desired diphosphonic acid in the form of the disodium salt with 1 mole of water of crystallisation; m.p.>300° C.; Mrel =0.9.

reactant | tetraethyl 2-(1,2,5-thiadiazol-4-yl)-ethane-1,1-diphosphonate | S1N=CC(=N1)CC(P(OCC)(=O)OCC)P(OCC)(=O)OCC | C12H24N2O6P2S
reactant | trimethylbromosilane | C[Si](Br)(C)C | C3H9BrSi
reactant | water | 1 mole | O | H2O
product | 2-(1,2,5-Thiadiazol-4-yl)-ethane-1,1-diphosphonic acid | S1N=CC(=N1)CC(P(O)(=O)O)P(O)(=O)O | C4H8N2O6P2S
